US08303944B2
Preparation of methyl ((1S)-2-methyl-1-(((2S)-2-(5-(4′-(2-((2S)-1-(N-3-pyridinyl-L-valyl)-2-pyrrolidinyl)-1H-imidazol-5-yl)-4-biphenylyl)-1H-imidazol-2-yl)-1-pyrrolidinyl)carbonyl)propyl)carbamate (cj-20)
To a solution of methyl (S)-3-methyl-1-oxo-1-((S)-2-(5-(4′-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)pyrrolidin-1-yl)butan-2-ylcarbamate (cj-13) (0.060 g, 0.103 mmol) in DMF (2 mL) was added iPr2NEt (0.18 mL, 1.02 mmol), (S)-3-methyl-2-(pyridin-3-ylamino)butanoic acid (Cap-88) (0.040 g, 0.206 mmol) and HATU (0.078 g, 0.205 mmol). The reaction mixture was stirred for 1.5 h at room temperature and then it was directly purified by prep HPLC (Luna 5u C18/MeCN—H2O—NH4OAc). The resulting solid was repurified by flash chromatography (SiO2/0-10% MeOH—CH2Cl2) and the obtained product was lyophilized from CH3CN—H2O to give the title compound (0.044 g, 56%) as a solid.

reactant | methyl (S)-3-methyl-1-oxo-1-((S)-2-(5-(4′-(2-((S)-pyrrolidin-2-yl)-1H-imidazol-5-yl)biphenyl-4-yl)-1H-imidazol-2-yl)pyrrolidin-1-yl)butan-2-ylcarbamate | 0.103 mmol, 0.060 g | CC([C@@H](C(N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1NCCC1)=O)NC(OC)=O)C | C33H39N7O3
reactant | iPr2NEt | 1.02 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-methyl-2-(pyridin-3-ylamino)butanoic acid | 0.206 mmol, 0.040 g | CC([C@@H](C(=O)O)NC=1C=NC=CC1)C | C10H14N2O2
reactant | HATU | 0.205 mmol, 0.078 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl ((1S)-2-methyl-1-(((2S)-2-(5-(4′-(2-((2S)-1-(N-3-pyridinyl-L-valyl)-2-pyrrolidinyl)-1H-imidazol-5-yl)-4-biphenylyl)-1H-imidazol-2-yl)-1-pyrrolidinyl)carbonyl)propyl)carbamate | 0.044 g, 56% | CC([C@@H](C(=O)N1[C@@H](CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C([C@@H](NC=1C=NC=CC1)C(C)C)=O)NC(OC)=O)C | C43H51N9O4
